US04343939
Bis(p-dimethylaminophenyl)methoxyphenyl Acetic Acid, Methyl Ester
A solution of methyl mandelate (97%, 6.44 g, 0.039 mole), 4,4'-bis(N,N'-dimethylamino)benzhydrol, methyl ether (11.0 g, 0.039 mole), 70 ml of tetrahydrofuran, 240 ml of n-hexane, 3 drops of methanesulfonic acid and 10 drops of acetic acid was refluxed for 6 hours, during which time an additional 200 ml of solvent was added. The volume was reduced to 200 ml, and decolorized with tetramethylguanidine and filtered hot. The filtrate was stripped, leaving a light blue clear oil. The oil was dissolved in toluene and chilled, yielding a white solid (2.8 g, mp 102°-105° C.).

reactant | methyl mandelate | 0.039 mole, 6.44 g | C(C(O)C1=CC=CC=C1)(=O)OC | C9H10O3
reactant | 4,4'-bis(N,N'-dimethylamino)benzhydrol | CN(C)C1=CC=C(C(C2=CC=C(C=C2)N(C)C)O)C=C1 | C17H22N2O
reactant | methyl ether | 0.039 mole, 11.0 g | COC | C2H6O
reactant | tetramethylguanidine | CN(C(N(C)C)=N)C | C5H13N3
catalyst | methanesulfonic acid | 3 drops | CS(=O)(=O)O | CH4O3S
catalyst | acetic acid | 10 drops | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | 240 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | Bis(p-dimethylaminophenyl)methoxyphenyl Acetic Acid, Methyl Ester | 2.8 g | CN(C1=CC=C(C=C1)C(OC(C(=O)OC)C1=CC=CC=C1)C1=CC=C(C=C1)N(C)C)C | C26H30N2O3
